US08859591B2
Step B: (+/−)-4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoic acid
A mixture of (+/−)-ethyl 4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoate (26 mg, 0.064 mmol) was dissolved in methanol (0.13 ml) and tetrahydrofuran (0.070 ml) and treated with aqueous 2.0M lithium hydroxide (64 ul, 0.13 mmol). The mixture was stirred at ambient temperature for 12 hours. The reaction was concentrated in vacuo and the residue was acidified with aqueous 1.0M hydrochloric acid. The crude product was concentrated in vacuo a second time and was used without further purification.

reactant | (+/−)-ethyl 4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoate | 0.064 mmol, 26 mg | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C24H28N4O2
reactant | tetrahydrofuran | 0.070 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.13 mmol, 2.0M, 64 ul | [OH-].[Li+]
solvent | methanol | 0.13 ml | CO | CH4O
product | (+/−)-4-(1-{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}butyl)benzoic acid | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(CCC)C1=CC=C(C(=O)O)C=C1 | C22H24N4O2
